US06951879B2
In analogy to example 36.1, {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine and 2-Propyn-1-ol were converted to yield 3-[4-(6-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-benzo[d]isothiazol-3-yl)-phenyl]-prop-2-yn-1-ol as yellow oil, MS: 425 (MH+).

reactant | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CC)CCO[Si](C)(C)C(C)(C)C | C27H39BrN2O2SSi
reactant | 2-Propyn-1-ol | C(C#C)O | C3H4O
product | 3-[4-(6-{4-[Ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-benzo[d]isothiazol-3-yl)-phenyl]-prop-2-yn-1-ol | C(C)N(CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C#CCO)C=C1)CCO | C24H28N2O3S
